US05885986
0.85 g (0.0020 mol) of 3-(4-dipropylaminomethyl-thiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one in 30 ml of ethanol was treated with 0.42 ml (0.0020 mol) of 4.78N ethanolic hydrochloric acid. After stirring at room temperature for 10 minutes the solution obtained was completely freed from the solvents. The residue was recrystallized from ethanol/ether. There was obtained 0.58 g (63%) of 3-(4-dipropylaminomethyl-thiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as white crystals; m.p. 206°-210°.

reactant | 3-(4-dipropylaminomethyl-thiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 0.0020 mol, 0.85 g | C(CC)N(CCC)CC=1N=C(SC1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C22H26FN5OS
reactant | hydrochloric acid | 0.0020 mol, 4.78N, 0.42 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(4-dipropylaminomethyl-thiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.58 g, 63% | Cl.C(CC)N(CCC)CC=1N=C(SC1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | InChI=1S/C22H26FN5OS.ClH/c1-4-8-27(9-5-2)11-16-13-30-21(25-16)20-19-12-26(3)22(29)17-10-15(23)6-7-18(17)28(19)14-24-20;/h6-7,10,13-14H,4-5,8-9,11-12H2,1-3H3;1H
